US07268230B2
Pyridine (20 ml) was added to a suspension of 7-hydroxy-6-methoxy-3,4-dihydroquinazolin-4-one (20.5 g, 107 mmol) in acetic anhydride (150 ml, 1.6 mol). The reaction mixture was heated to 120° C. for three hours, during which time the solid dissolved. The reaction mixture was allowed to cool then poured into ice-water (900 ml). The reaction mixture was stirred for one hour then the solid was removed by filtration and dried over phosphorus pentoxide yielding 7-acetoxy-6-methoxy-3,4-dihydroquinazolin-4-one as a white solid (20.98 g, 84%).

reactant | 7-hydroxy-6-methoxy-3,4-dihydroquinazolin-4-one | 107 mmol, 20.5 g | OC1=C(C=C2C(NC=NC2=C1)=O)OC | C9H8N2O3
reactant | acetic anhydride | 1.6 mol, 150 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 7-acetoxy-6-methoxy-3,4-dihydroquinazolin-4-one | 20.98 g, 84% | C(C)(=O)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C11H10N2O4
